*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/ZLM(-25to85[deg])/1.00e-03[uF]/100[V]
* Murata P/N :GCM2199E2A102MA04
* Property : C = 1.00e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2199E2A102MA04 Port1 Port2
C01 Port1 N01 1.02e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 2.66e-11
R03 N02 N03 9.57e-02
C04 N03 N04 9.05e-08
R04 N03 N04 8.47e+01
C05 N04 N05 2.51e-07
R05 N04 N05 6.27e-01
C06 N05 N06 3.75e-07
R06 N05 N06 8.16e-02
L07 N06 N07 9.44e-11
R07 N06 N07 9.76e-01
C08 N07 N08 1.97e-08
L08 N07 N08 3.33e-12
R08 N07 N08 6.90e-02
C09 N08 N09 1.99e-09
L09 N08 N09 1.31e-11
R09 N08 N09 3.11e-01
C10 N09 N10 5.64e-12
L10 N09 N10 2.25e-10
R10 N09 N10 2.77e+01
C11 N10 N11 7.53e-12
L11 N10 N11 6.72e-11
R11 N10 N11 1.04e+01
C12 N11 Port2 2.05e-12
L12 N11 Port2 1.36e-10
R12 N11 Port2 2.87e+01
.ENDS GCM2199E2A102MA04
